US05283248
5-Chloro-N-cyclopropyl-4-fluoro-2-nitroaniline (3.5 g, 15.2 mmol) is heated with N-acetylpiperazine (3.89 g, 30.4 mmol) and triethylamine (2.3 g 22.8 mmol) while stirring vigorously and held at 60° for 12 hours. The mass obtained is dissolved in water (200 ml) and extracted with ethyl acetate. The organic phase is washed with 10 percent sodium chloride solution and then dried over magnesium sulfate. After distillation of the solvent the residue is recrystallized from ethanol. There are obtained 4.57 g (93%) of 1-acetyl-4-[5-(cyclopropylamino)-2-fluoro-4-nitrophenyl]piperazine with a m.p. of 142°-143°.

reactant | 5-Chloro-N-cyclopropyl-4-fluoro-2-nitroaniline | 15.2 mmol, 3.5 g | ClC=1C(=CC(=C(NC2CC2)C1)[N+](=O)[O-])F | C9H8ClFN2O2
reactant | N-acetylpiperazine | 30.4 mmol, 3.89 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | triethylamine | 22.8 mmol, 2.3 g | C(C)N(CC)CC | C6H15N
solvent | water | 200 ml | O | H2O
product | 1-acetyl-4-[5-(cyclopropylamino)-2-fluoro-4-nitrophenyl]piperazine | 4.57 g, 93% | C(C)(=O)N1CCN(CC1)C1=C(C=C(C(=C1)NC1CC1)[N+](=O)[O-])F | C15H19FN4O3
